US04767766
Step F: Preparation of 3-Acetoxy-6-(1,1-dimethylethyl)-2-phenyl-7-azabenzo[b]thiophene
A solution of 1.42 g (5 mmol) of 6(1,1-dimethylethyl)-3-hydroxy-2-phenyl-7-azabenzo[b]thiophene and 1.42 g sodium acetate in 20 mL of acetic anhydride was heated at reflux for 1 hour. The solution was concentrated and the residue was partitioned between ether and water. The ether layer was washed with sodium bicarbonate solution and brine, dried and concentrated. The residue was crystallized from ether-hexane to afford 1.49 g (91%) of fine white needles, m.p. 128°-9° C.

reactant | 6(1,1-dimethylethyl)-3-hydroxy-2-phenyl-7-azabenzo[b]thiophene | 5 mmol, 1.42 g | CC(C)(C)C=1C=CC2=C(SC(=C2O)C2=CC=CC=C2)N1 | C17H17NOS
reactant | sodium acetate | 1.42 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetoxy-6-(1,1-dimethylethyl)-2-phenyl-7-azabenzo[b]thiophene | 1.49 g, 91% | C(C)(=O)OC=1C2=C(SC1C1=CC=CC=C1)N=C(C=C2)C(C)(C)C | C19H19NO2S
